US07098239B2
1-[(3R)-3-Amino-4-phenylbutanoyl]-N-{2-[2-(cyclopropylamino)-2-oxoethoxy]benzyl}-L-prolinamide.
Palladium hydroxide on activated charcoal (˜50 mg) was added to a solution of 15 mg of 1-[(3R)-3-amino-4-phenylbutanoyl]-N-{5-chloro-2-[2-(cyclopropylamino)-2-oxoethoxy]benzyl }-L-prolinamide in 1 mL methanol and the mixture was stirred under a balloon of hydrogen for 6 h. The reaction was diluted with methanol, filtered through a pad of Celite, and concentrated in vacuo. Purification using preparative TLC (silica gel, 13.5:1.5:85 methanol:concentrated ammonium hydroxide:methylene chloride) afforded 10 mg of the title compound. 1H NMR (400 MHz, CD3OD) δ 7.33–7.10 (m, 7H), 7.01–6.83 (d, 2H), 4.58–4.22 (m, 5H), 3.61–3.35 (m, 3H), 2.84–2.48 (m, 4H), 2.38–2.08 (m, 2H), 2.05–1.80 (m, 3H), 0.78–0.60 (m, 4H).

reactant | 1-[(3R)-3-amino-4-phenylbutanoyl]-N-{5-chloro-2-[2-(cyclopropylamino)-2-oxoethoxy]benzyl }-L-prolinamide | 15 mg | N[C@@H](CC(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)OCC(=O)NC2CC2)CCC1)CC1=CC=CC=C1 | C27H33ClN4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1 mL | CO | CH4O
catalyst | Palladium hydroxide on activated charcoal | ˜50 mg | [OH-].[OH-].[Pd+2]
product | 1-[(3R)-3-Amino-4-phenylbutanoyl]-N-{2-[2-(cyclopropylamino)-2-oxoethoxy]benzyl}-L-prolinamide | 10 mg | N[C@@H](CC(=O)N1[C@H](C(=O)NCC2=C(C=CC=C2)OCC(=O)NC2CC2)CCC1)CC1=CC=CC=C1 | C27H34N4O4
